US07709471B2
tert-butyl N-[4-(azetidin-1-yl)cyclohexyl]carbamate
To a stirred solution of N-4-boc-aminocyclohexanone (500 mg, 2.34 mmol) in DCM (7 mL) was added azetidine (220 ul, 3.26 mmol) and the mixture stirred for 15 minutes. Sodium acetate (193 mg, 2.34 mmol) was added, followed by careful addition of sodium triacetoxyborohydride (746 mg, 3.52 mmol) The reaction mixture was stirred, at ambient temperature, under nitrogen for 3 hours, diluted with DCM to 25 mL total volume and filtered. The filtrate was poured onto and SCX-2 (10 g) cartridge and the cartridge washed with methanol (75 mL) then eluted with 2M ammonia in methanol (75 mL). The ammoniacal solution was evaporated, to give a waxy off white solid (200 mg). The SCX cartridge wash was resubmitted to a second SCX-2 cartridge (10 g) and the cartridge again washed with methanol (75 mL) and eluted with 2M ammonia/methanol (75 mL). The ammoniacal solution was evaporated to a colourless gum. Solid products were combined and triturated with isohexane. The resultant crystalline solid was collected by suction filtration and dried to yield the title compound as a white solid (104 mg). A second crop crystallised from the filtrate. This was again collected and dried to give the title compound as fine white needles (260 mg).

reactant | N-4-boc-aminocyclohexanone | 2.34 mmol, 500 mg | CC(C)(C)OC(=O)NC1CCC(=O)CC1 | C11H19NO3
reactant | azetidine | 3.26 mmol, 220 ul | N1CCC1 | C3H7N
reactant | Sodium acetate | 2.34 mmol, 193 mg | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 3.52 mmol, 746 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-[4-(azetidin-1-yl)cyclohexyl]carbamate | 200 mg | N1(CCC1)C1CCC(CC1)NC(OC(C)(C)C)=O | C14H26N2O2
